US08236835B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
To a solution of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide (0.13 g, 0.38 mmol) in a mixture of anhydrous tetrahydrofuran and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8/1, v/v) at −78° C. was added lithium bis(trimethylsilyl)amide in tetrahydrofuran (0.83 mL, 0.83 mmol) dropwise. The reaction mixture was stirred at −78° C. for 5 minutes, followed by the addition of cyclopropanecarbaldehyde (0.028 mL, 0.38 mmol) dropwise. The reaction mixture was warmed to ambient temperature after 3 hours followed by the addition of aqueous saturated ammonium chloride (10 mL) solution. The mixture was extracted with dichloromethane (3×10 mL). The combined organic solutions were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in ethyl acetate and hydrogenated in the presence of catalytic amount of Pd/C (20% w/w) at ambient temperature and atmospheric pressure for 1 hour. The reaction mixture was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate/hexanes (1/1)) to afford the title compound as a white solid (0.025 g, 17%): mp 153-155° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.34-7.23 (m, 2H), 7.01 (t, J=8.6 Hz, 2H), 5.95 (t, J=5.6 Hz, 1H), 4.52 (d, J=5.6 Hz, 2H), 4.23-4.14 (m, 1H), 3.99-3.90 (m, 1H), 2.87-2.78 (m, 1H), 2.62 (s, 3H), 2.53-2.42 (m, 1H), 2.08-1.94 (m, 1H), 1.79-1.69 (m, 1H), 1.52-1.42 (m, 1H), 0.84-0.69 (m, 1H), 0.53-0.39 (m, 2H), 0.16-0.03 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 175.9, 162.4, 162.3, 155.5, 152.9, 133.7, 129.6, 118.2, 115.7, 46.2, 43.3, 35.5, 24.9, 17.3, 8.6, 4.8, 4.3; MS (ES+) m/z 388.2 (M+1).

reactant | N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide | 0.38 mmol, 0.13 g | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(CCC2)=O)C)C=C1 | C16H16FN3O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | cyclopropanecarbaldehyde | 0.38 mmol, 0.028 mL | C1(CC1)C=O | C4H6O
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.83 mmol, 0.83 mL | O1CCCC1 | C4H8O
product | 2-(3-(cyclopropylmethyl)-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 0.025 g, 17% | C1(CC1)CC1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C20H22FN3O2S
